US04549883
EXAMPLE 2: Preparation of 2-Methyl-2-Nitro-3-Pentyl Nitrate
2-nitro-2-methyl-3-pentanol, 20 grams, was added to a mixture of 120 ml of concentrated sulfuric acid and 40 grams of 90% nitric acid over a 30-minute period at 6°-9° C. After 1/2 hour the acid solution was added to 800 ml of ice water.

reactant | 2-nitro-2-methyl-3-pentanol | [N+](=O)([O-])C(C)(C(CC)O)C | C6H13NO3
reactant | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 40 grams | [N+](=O)(O)[O-] | HNO3
product | 2-Methyl-2-Nitro-3-Pentyl Nitrate | [N+](=O)(OC(C(C)([N+](=O)[O-])C)CC)[O-] | C6H12N2O5
